US07652049B2
Carbon tetrabromide (1.86 g; 5.6 mmol) and triphenylphosphine (1.47 g; 5.6 mmol) were added successively to a stirred solution of [2-iodo-5-(trifluoromethyl)phenyl]methanol (1.13 g; 3.74 mmol) in CH2Cl2 (25 mL) at 0° C. under N2. The reaction was stirred at room temperature for 48 h. A second equivalent of carbon tetrabromide (1.2 g; 3.74 mmol) and triphenylphosphine (0.98 g; 3.74 mmol) was added and the reaction was stirred an additional 14 h. The solvent was removed in vacuo and the residue was purified by flash chromatography (0-25% EtOAc/hexanes gradient) to afford 2-(bromoethyl)-1-iodo-4-(trifluoromethyl)benzene as a clear oil. 1H NMR (CDCl3, 500 MHz): δ 8.02 (d, J=8.2 Hz, 1H), 7.73 (d, J=1.8 Hz, 1H), 7.26 (dd, J=8.3, 1.8 Hz, 1H), 4.64 (s, 2H).

reactant | Carbon tetrabromide | 5.6 mmol, 1.86 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 5.6 mmol, 1.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [2-iodo-5-(trifluoromethyl)phenyl]methanol | 3.74 mmol, 1.13 g | IC1=C(C=C(C=C1)C(F)(F)F)CO | C8H6F3IO
reactant | carbon tetrabromide | 3.74 mmol, 1.2 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 3.74 mmol, 0.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(bromoethyl)-1-iodo-4-(trifluoromethyl)benzene | BrCCC1=C(C=CC(=C1)C(F)(F)F)I | C9H7BrF3I
